US05322850
To a solution of 3.47 g of 2-[1-((4-(1,1-dimethylethyl)phenyl) methyl)piperidine-4-yl]-1H-benzimidazole in 80 ml of acetonitrile, 1.38 g of potassium carbonate and 1.08 ml of 2-chloroethyl-ethyl ether are added and the mixture is refluxed for 8 hours; then is left to cool and poured onto 200 ml of water; it is extracted with ether (3×30 ml) and the ethereal layer is washed with water (3×20 ml) and dried over anhydrous sodium sulfate. The oil obtained by elimination of the ether is purified by column chromatography by using chloroform/methanol (98/2) as eluent, thus obtaining 2 g of 2-[1-((4-(1.1-dimethylethyl)phenyl(methyl) piperidine-4-yl]-1-(2-ethoxyethyl)-1H-benzimidazole. Mp: 51°-53° C.

reactant | 2-[1-((4-(1,1-dimethylethyl)phenyl) methyl)piperidine-4-yl]-1H-benzimidazole | 3.47 g | CC(C)(C)C1=CC=C(C=C1)CN1CCC(CC1)C1=NC2=C(N1)C=CC=C2 | C23H29N3
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethyl-ethyl ether | 1.08 ml | ClCCOCC | C4H9ClO
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | (4-(1.1-dimethylethyl)phenyl(methyl) piperidine-4-yl]-1-(2-ethoxyethyl)-1H-benzimidazole | CC(C)(C)C1=CC=C(C=C1)C1N(CCC(C1)C1=NC2=C(N1CCOCC)C=CC=C2)C | C27H37N3O
